US07560558B2
Compound 104: N-Phenyl-2-[(6,7-dimethoxy-4-quinolyl)oxy]benzamide
4-Chloro-6,7-dimethoxyquinoline (56 mg), salicylanilide (213 mg), and 4-dimethylaminopyridine (122 mg) were suspended in o-dichlorobenzene (1 ml), and the suspension was stirred at 140° C. for 4 hr. The reaction solution was cooled to room temperature, and the solvent was removed by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using acetone-hexane to give the title compound (86 mg, yield 86%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 56 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | salicylanilide | 213 mg | C(C=1C(O)=CC=CC1)(=O)NC1=CC=CC=C1 | C13H11NO2
catalyst | 4-dimethylaminopyridine | 122 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 1 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | N-Phenyl-2-[(6,7-dimethoxy-4-quinolyl)oxy]benzamide | 86 mg, yield 86% | C1(=CC=CC=C1)NC(C1=C(C=CC=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)=O | C24H20N2O4
